US07247646B2
C. 2,2-Dimethyl-propionic acid 4-(7-methoxy-2-oxo-3-(4-trifluoromethyl-phenyl)-2H-chromen-4-ylmethyl)-phenyl ester
A mixture of 4-(4-hydroxybenzyl)-7-methoxy-3-(4-trifluoromethyl-phenyl)-chromen-2-one (800 mg, 1.88 mmol), pivaloyl chloride (577 μL, 4.69 mmol), imidazole (268 mg, 3.94 mmol) and DMAP (344 mg, 2.81 mmol) in DMF (10 mL) was stirred at room temperature for 18 h. Additional portions of imidazole (268 mg, 3.94 mmol), DMAP (344 mg, 2.81 mmol) and pivaloyl chloride (577 μL, 4.69 mmol) were added and stirring was continued for a further 20 h, for a total reaction time of 38 h. The solvent was removed in vacuo, the residue was dissolved in AcOEt and the organic layer was washed with H2O. The aq layer was extracted with AcOEt (2×) and the combined organic layers were washed with brine, dried (MgSO4) and the solvent was removed in vacuo. The resultant residue was purified using flash chromatography (silica gel, 5:1 hexanes:AcOEt) to provide the title compound as a white solid (820 mg, 86%). 1H NMR (300 MHz, CDCl3) δ 7.64 (d, J=8.0 Hz, 2H), 7.43–7.37 (m, 3H), 7.08–7.02 (m, 2H), 7.00–6.93 (m, 2H), 6.88 (d, J=2.5 Hz, 1H), 6.77 (dd, J=2.5, 8.8 Hz, 1H), 4.04 (s, 2H), 3.87 (s, 3H), 1.34 (s, 9H); MS (ESI) m/z 511.0 (M+H)+; HPLC tR 7.58 min.

reactant | 4-(4-hydroxybenzyl)-7-methoxy-3-(4-trifluoromethyl-phenyl)-chromen-2-one | 1.88 mmol, 800 mg | OC1=CC=C(CC2=C(C(OC3=CC(=CC=C23)OC)=O)C2=CC=C(C=C2)C(F)(F)F)C=C1 | C24H17F3O4
reactant | pivaloyl chloride | 4.69 mmol, 577 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | imidazole | 3.94 mmol, 268 mg | N1C=NC=C1 | C3H4N2
reactant | imidazole | 3.94 mmol, 268 mg | N1C=NC=C1 | C3H4N2
reactant | pivaloyl chloride | 4.69 mmol, 577 μL | C(C(C)(C)C)(=O)Cl | C5H9ClO
catalyst | DMAP | 2.81 mmol, 344 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 2.81 mmol, 344 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,2-Dimethyl-propionic acid 4-(7-methoxy-2-oxo-3-(4-trifluoromethyl-phenyl)-2H-chromen-4-ylmethyl)-phenyl ester | 820 mg, 86% | COC1=CC=C2C(=C(C(OC2=C1)=O)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(C=C1)OC(C(C)(C)C)=O | C29H25F3O5
